US08791119B2
To a solution of 26.7 g (108 mmol) of tert-butyl 8-cyano-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate in 490 ml of methanol are added 80 ml (864 mmol) of concentrated aqueous 32% sodium hydroxide and 4.0 g (41 mmol) of aqueous 35% hydrogen peroxide solution. The reaction medium is heated at 55° C. for 2 hours. 4 times 4.0 g (41 mmol) of aqueous 35% hydrogen peroxide solution are then added every 2 hours and heating is then continued at 55° C. for 18 hours. The medium is then treated with an aqueous solution of 30 g (190 mmol) of sodium thiosulfate in 250 ml of water and the reaction mixture is stirred for 1 hour and then partially concentrated under reduced pressure. The product is extracted with 350 ml and then twice 100 ml of dichloromethane, and the organic phases are combined, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue is dissolved in a mixture of dichloromethane and ethyl acetate and then precipitated by slow concentration to give 21.1 g of tert-butyl 8-carbamoyl-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate in the form of a white solid after drying in an oven at 60° C. under reduced pressure.

reactant | tert-butyl 8-cyano-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 108 mmol, 26.7 g | C(#N)C=1C=CN2C1CN(CC2)C(=O)OC(C)(C)C | C13H17N3O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium thiosulfate | 190 mmol, 30 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 490 ml | CO | CH4O
solvent | water | 250 ml | O | H2O
product | tert-butyl 8-carbamoyl-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 21.1 g | C(N)(=O)C=1C=CN2C1CN(CC2)C(=O)OC(C)(C)C | C13H19N3O3
